US04965398
Into a 25-ml flask was placed 0.5 g of a powder of Molecular Sieves® 4A (manufactured by Aldrich Corp.), and the air in the flask was thoroughly displaced by argon. Then, 5 ml of methylene chloride was added thereto, and 0.16 ml (0.05 mmole) of the diisopropoxydibromotitanium solution in toluene as prepared above and 14.3 mg (0.05 mmole) of (R)-binaphthol were further added. The mixture was stirred at room temperature for 1 hour to prepare an (R)-binaphtholdibromotitanium complex. This solution was cooled to -30° C. in a bath of dry ice and acetone, and subsequently 96 mg (1 mmole) of methylenecyclohexane (manufactured by Aldrich Corp.) and 88 mg (1 mmole) of methyl glyoxylate were added to this cooled solution, followed by reaction for 3 hours. Thereafter, 10 ml of an aqueous sodium hydrogen-carbonate solution was added to terminate the reaction. The reaction mixture was filtered through Celite and extracted with two 20 ml portions of diethyl ether and two 20 ml portions of ethyl acetate, and the extract was dried over anhydrous magnesium sulfate. Then, the solvents were distilled off, and hexane was added to the residue to crystallize binaphthol. The remaining solution was purified by means of silica gel column chromatography to obtain 0.16 g of methyl (S)-2- hydroxy-3-(1-cyclohexenyl)propionate. The yield was 89%.

reactant | dry ice | C(=O)=O | CO2
reactant | methylenecyclohexane | 1 mmole, 96 mg | C=C1CCCCC1 | C7H12
reactant | methyl glyoxylate | 1 mmole, 88 mg | C(C=O)(=O)OC | C3H4O3
reactant | sodium hydrogen-carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | diisopropoxydibromotitanium | 0.05 mmole, 0.16 ml | C(C)(C)O[Ti](Br)(Br)OC(C)C
catalyst | (R)-binaphthol | 0.05 mmole, 14.3 mg | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
solvent | acetone | CC(=O)C | C3H6O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | methyl (S)-2- hydroxy-3-(1-cyclohexenyl)propionate | 0.16 g, yield was 89% | O[C@H](C(=O)OC)CC1=CCCCC1 | C10H16O3
